US08669271B2
4-(5-Imidazol-1-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 4-(5-bromo-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester (115 mg), imidazole (41 mg), cesium carbonate (215 mg), 1,10-phenanthroline (11 mg), and copper iodide (6 mg) in methanol (2 mL) is heated in a microwave oven to 130° C. for 45 min under an argon atmosphere. After cooling to room temperature the reaction mixture is diluted with ethyl acetate and water. The organic phase is separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residue is purified by HPLC to give the title compound. LC (method 7): tR=1.16 min; Mass spectrum (ESI+): m/z=371 [M+H]+.

reactant | 4-(5-bromo-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | 115 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Br)O1 | C17H23BrN2O3
reactant | imidazole | 41 mg | N1C=NC=C1 | C3H4N2
reactant | cesium carbonate | 215 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,10-phenanthroline | 11 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | methanol | 2 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | copper iodide | 6 mg | [Cu](I)I
product | 4-(5-Imidazol-1-yl-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)N2C=NC=C2)O1 | C20H26N4O3
